US07192982B2
(2S)-3-{4-[2-(Biphenyl-4-yloxy)-acetyl]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from a solution of (2S)-3-[4-(2-Bromo-acetyl)-phenyl]-2-methoxy-propionic acid ethyl ester (25 mg, 0.076 mmol) in acetonitrile (5 ml). 4-phenylphenol (29 mg, 0.152 mmol) and K2CO3 (31,5 mg, 0.23 mmol) were added. The solution was stirred for 30 min at 80° C. and then cooled to room temperature. The mixture was concentrated to dryness under vacuum and chromatographed in silica gel (hexanes/Ethyl ether 8:2 to 7:3). Fractions corresponding to the coupled compound were collected (Rf0.27) and concentrated to dryness. The mixture thus obtained was dissolved in 4 mL of NaOH 1N and 12 mL of Methanol and stirred at room temperature until TLC indicates the disappearance of starting material. The methanol was eliminated under vacuum and the aqueous solution diluted with 20 mL of brine and washed with diethyl ether (3×15 mL). The aqueous phase was acidulated with HCl 1N (until pH 3); extracted with ethyl acetate (3×15 mL) and the organic layer dried (MgSO4) and concentrated under vacuum. Obtained a colorless oil (9.6 mg, 32%). 1H-NMR (200.15 MHz; CDCl3): δ 7.96 (d, 2H, J=8.4), 7.55–7.23 (m, 9H), 6.99 (d, 2H, J=8.8), 5.26 (s, 2H), 4.03 (dd, 1H, J=7.3, 5.6), 3.39 (s, 3H), 3.22 (dd, 1H, J=14.3, 5.5), 3.03 (dd, 1H, J=14.3, 7.2).

reactant | (2S)-3-[4-(2-Bromo-acetyl)-phenyl]-2-methoxy-propionic acid ethyl ester | 0.076 mmol, 25 mg | C(C)OC([C@H](CC1=CC=C(C=C1)C(CBr)=O)OC)=O | C14H17BrO4
reactant | 4-phenylphenol | 0.152 mmol, 29 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | K2CO3 | 0.23 mmol, 31,5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Methanol | 12 mL | CO | CH4O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | NaOH | 1N, 4 mL | [OH-].[Na+]
solvent | brine | 20 mL | [Cl-].[Na+].O
product | (2S)-3-{4-[2-(Biphenyl-4-yloxy)-acetyl]-phenyl}-2-methoxy-propionic acid | C1(=CC=C(C=C1)OCC(=O)C1=CC=C(C=C1)C[C@@H](C(=O)O)OC)C1=CC=CC=C1 | C24H22O5
